US04988459
4-(2-n-octylthiopyrimidin-5-yl)phenyl (2R,3S)-3-nonyloxirane-2-carboxylate
A solution of 413 mg (2.0 mmol) of dicyclohexyldicarbodiimide in 10 ml of dry CH2Cl2 is added while stirring at room temperature to 429 mg (2 mmol) of (2R,3S)-3-nonyloxirane-2-carboxylic acid, 633 mg (2 mmol) of 4-(2-n-octylthiopyrimidin-5-yl) phenol and also 20 mg of 4-dimethylaminopyridine. After stirring for 4 hours at room temperature, the reaction solution is evaporated down in vacuo. After chromatographic purification and recrystallization from n-hexane, 120 mg (12%) of colorless crystals are obtained. The substance exhibits the liquid-crystal phase sequence: X 73 SA 93.5 I.

reactant | (2R,3S)-3-nonyloxirane-2-carboxylic acid | 2 mmol | C(CCCCCCCC)[C@H]1[C@@H](O1)C(=O)O | C12H22O3
reactant | 4-(2-n-octylthiopyrimidin-5-yl) phenol | 2 mmol, 633 mg | C(CCCCCCC)SC1=NC=C(C=N1)C1=CC=C(C=C1)O | C18H24N2OS
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(2-n-octylthiopyrimidin-5-yl)phenyl (2R,3S)-3-nonyloxirane-2-carboxylate | C(CCCCCCCC)[C@H]1[C@@H](O1)C(=O)OC1=CC=C(C=C1)C=1C=NC(=NC1)SCCCCCCCC | C30H44N2O3S
